US07960545B2
Into a 2.0 Lt four necked round bottomed flask equipped with a mechanical stirrer, reflux condenser and thermometer socket are charged 48% (w/w) hydrobromic acid (1000 g) and 6,7-dimethoxy-4(3H)-quinazolinone (100 g). Slowly heated the reaction mass to reach 110° C. and maintained for 1 hour at the same temperature. Then raised mass temperature to reach reflux condition and refluxed for 12 hours. Monitored the completion of the reaction by TLC. Then cooled the reaction mass to 25-35° C. and filtered the mass. Transferred the wet cake into another 2.0 Lt round bottomed flask containing 1000 ml of DM water. Stirred for 10-15 minutes and adjusted the pH to 7.0-7.5, by adding aqueous ammonia solution. Filtered the resulting product and washed the cake with DM water and dried to get 85.2 g (98.62% by theory) of 6,7-dihydroxy-4(3H)-quinazolinone as off-white crystalline solid.

reactant | hydrobromic acid | 1000 g | Br | BrH
reactant | 6,7-dimethoxy-4(3H)-quinazolinone | 100 g | COC=1C=C2C(NC=NC2=CC1OC)=O | C10H10N2O3
product | 6,7-dihydroxy-4(3H)-quinazolinone | 85.2 g, 98.62% | OC=1C=C2C(NC=NC2=CC1O)=O | C8H6N2O3
